* File: G2_AOI21_N2.pex.netlist.pex
* Created: Wed Mar  2 10:50:47 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_AOI21_N2_VSS 2 4 6 8 10 22 26 37 42 45 50 55 64 73 74 76 84 85 86
+ 91 93 95 96 Vss
c49 96 Vss 4.28045e-19
c50 93 Vss 0.00502493f
c51 91 Vss 0.00155386f
c52 86 Vss 0.00128356f
c53 85 Vss 4.65637e-19
c54 84 Vss 0.00250049f
c55 76 Vss 0.00102564f
c56 74 Vss 0.0111823f
c57 73 Vss 0.00298723f
c58 72 Vss 0.00133186f
c59 64 Vss 0.00440574f
c60 55 Vss 2.73256e-19
c61 50 Vss 0.00134908f
c62 45 Vss 0.00142279f
c63 42 Vss 0.00539632f
c64 37 Vss 0.00501643f
c65 33 Vss 0.0299311f
c66 26 Vss 0.0997249f
c67 22 Vss 0.0346879f
c68 21 Vss 0.0688416f
c69 10 Vss 0.13466f
c70 8 Vss 0.135155f
c71 4 Vss 0.134005f
r72 92 96 0.551426
r73 92 93 15.5878
r74 91 96 0.551426
r75 90 91 4.58464
r76 86 96 0.0828784
r77 84 93 0.652036
r78 84 85 4.33457
r79 80 85 0.652036
r80 75 95 0.326018
r81 74 90 0.652036
r82 74 75 15.6711
r83 73 76 0.655813
r84 72 95 0.326018
r85 72 73 4.58464
r86 55 86 1.82344
r87 50 64 1.16709
r88 50 80 2.16729
r89 45 76 1.82344
r90 42 55 1.16709
r91 37 45 1.16709
r92 29 64 0.0476429
r93 27 33 0.494161
r94 27 29 1.5171
r95 26 30 0.652036
r96 26 29 1.4004
r97 23 33 0.128424
r98 21 33 0.494161
r99 21 22 2.8008
r100 18 22 0.652036
r101 10 30 3.8511
r102 8 23 3.8511
r103 6 42 0.185659
r104 4 18 3.8511
r105 2 37 0.185659
.ends

.subckt PM_G2_AOI21_N2_VDD 2 4 6 8 10 37 42 45 46 48 50 54 56 57 58 62 63 65 67
+ 68 Vss
c45 74 Vss 0.00522224f
c46 68 Vss 4.52364e-19
c47 65 Vss 0.00206997f
c48 63 Vss 0.00832772f
c49 62 Vss 8.61193e-19
c50 58 Vss 0.00179763f
c51 57 Vss 6.04409e-19
c52 56 Vss 0.00220637f
c53 54 Vss 0.00174159f
c54 51 Vss 0.00169975f
c55 50 Vss 0.0126979f
c56 48 Vss 0.00162243f
c57 46 Vss 0.00140335f
c58 45 Vss 0.00342891f
c59 42 Vss 0.00386883f
c60 37 Vss 0.0039448f
c61 33 Vss 0.0307649f
c62 26 Vss 0.101606f
c63 22 Vss 0.0367535f
c64 21 Vss 0.0712517f
c65 8 Vss 0.135377f
c66 6 Vss 0.136148f
c67 2 Vss 0.136508f
r68 64 68 0.551426
r69 64 65 4.58464
r70 63 68 0.551426
r71 62 67 0.326018
r72 62 63 15.5878
r73 58 68 0.0828784
r74 58 60 1.82344
r75 56 67 0.326018
r76 56 57 4.37625
r77 54 74 1.16709
r78 52 57 0.652036
r79 52 54 2.16729
r80 50 65 0.652036
r81 50 51 15.7128
r82 46 48 1.85991
r83 45 51 0.652036
r84 44 46 0.655813
r85 44 45 4.58464
r86 42 60 1.16709
r87 37 48 1.16709
r88 29 74 0.0476429
r89 27 33 0.494161
r90 27 29 1.45875
r91 26 30 0.652036
r92 26 29 1.45875
r93 23 33 0.128424
r94 21 33 0.494161
r95 21 22 2.8008
r96 18 22 0.652036
r97 10 42 0.185659
r98 8 30 3.8511
r99 6 23 3.8511
r100 4 37 0.185659
r101 2 18 3.8511
.ends

.subckt PM_G2_AOI21_N2_B 1 2 20 23 28 33 Vss
c16 33 Vss 0.00374498f
c17 28 Vss 0.00329073f
c18 20 Vss 0.00131176f
c19 12 Vss 0.112394f
c20 1 Vss 0.112032f
r21 25 33 1.16709
r22 23 25 2.37568
r23 20 28 1.16709
r24 20 23 2.45904
r25 12 33 0.50025
r26 9 28 0.50025
r27 2 12 3.09255
r28 1 9 3.09255
.ends

.subckt PM_G2_AOI21_N2_A 2 10 13 16 19 Vss
c18 19 Vss 0.0047915f
c19 13 Vss 1.7481e-19
c20 10 Vss 0.0843245f
c21 2 Vss 0.134559f
r22 13 19 1.16709
r23 13 16 0.0833571
r24 10 19 0.0476429
r25 7 10 1.92555
r26 4 7 0.0685365
r27 2 4 3.8511
.ends

.subckt PM_G2_AOI21_N2_Z 2 4 6 8 23 27 30 33 Vss
c30 30 Vss 0.0017138f
c31 27 Vss 0.00602012f
c32 23 Vss 0.00695066f
c33 8 Vss 0.00143442f
c34 6 Vss 0.00143442f
r35 33 35 7.002
r36 30 33 4.00114
r37 27 35 1.16709
r38 23 30 1.16709
r39 8 27 0.185659
r40 6 23 0.185659
r41 4 27 0.185659
r42 2 23 0.185659
.ends

.subckt PM_G2_AOI21_N2_C 2 3 4 11 12 19 27 Vss
c26 27 Vss 5.3347e-19
c27 23 Vss 0.0299669f
c28 19 Vss 0.202703f
c29 12 Vss 0.0357074f
c30 11 Vss 0.233915f
c31 3 Vss 0.235582f
c32 2 Vss 0.237839f
r33 27 30 0.0416786
r34 19 30 1.16709
r35 17 23 0.494161
r36 17 19 2.8008
r37 13 23 0.494161
r38 11 23 0.128424
r39 11 12 8.92755
r40 8 12 0.652036
r41 4 19 4.3179
r42 3 13 7.1187
r43 2 8 7.1187
.ends

